US04234736
A mixture of 2.91 g (20 mmol) of 3-chloro-4-fluoroaniline and 3.01 g (21 mmol) of 2-isocyanato-propionic acid ethyl ester was maintained at 130°-140° C. for 91/2 hours. The resulting product was crystallized from chloroform/methanol to yield 3-(3-chloro-4-fluorophenyl)-5-methyl-hydantoin, m.p. 174°-175.5° C.

reactant | 3-chloro-4-fluoroaniline | 20 mmol, 2.91 g | ClC=1C=C(N)C=CC1F | C6H5ClFN
reactant | 2-isocyanato-propionic acid ethyl ester | 21 mmol, 3.01 g | C(C)OC(C(C)N=C=O)=O | C6H9NO3
product | 3-(3-chloro-4-fluorophenyl)-5-methyl-hydantoin | ClC=1C=C(C=CC1F)N1C(NC(C1=O)C)=O | C10H8ClFN2O2
